US09382222B2
A solution of 2-(trifluoromethyl)aniline (1.51 g, 9.37 mmol) and pyridine (1.08 mL, 13.38 mmol) in DCM (30 mL) was treated with 4-nitrobenzenesulfonyl chloride (1.48 g, 6.69 mmol) and stirred at room temperature for 18 hours. The mixture was diluted with DCM, washed with 1 M aqueous HCl, saturated aqueous NaHCO3, water and brine, dried over Na2SO4 and concentrated under vacuum. Trituration with pentane gave 4-nitro-N-(2-trifluoromethyl-phenyl)-benzenesulfonamide (1.91 g, 82%). 1H NMR (300 MHz, CDCl3) δ 8.31-8.23 (m, 2H), 7.95-7.85 (m, 3H), 7.64-7.50 (m, 2H), 7.31 (t, J=7.7 Hz, 1H), 6.89 (br s, 1H). LCMS (m/z, Method A) ES+ 347.1 [M+1]+.

reactant | 2-(trifluoromethyl)aniline | 9.37 mmol, 1.51 g | FC(C1=C(N)C=CC=C1)(F)F | C7H6F3N
reactant | pyridine | 13.38 mmol, 1.08 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrobenzenesulfonyl chloride | 6.69 mmol, 1.48 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-nitro-N-(2-trifluoromethyl-phenyl)-benzenesulfonamide | 1.91 g, 82% | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC=C1)C(F)(F)F | C13H9F3N2O4S
